US06121274
F1: 2,2-Diethyl-2,3-dihydro-7-methoxybenzofuran-4-carbonyl chloride
Analogously to Example A1, 1.2 g of 2,2-diethyl-2,3-dihydro-7-methoxybenzofuran-4-carboxylic acid are reacted in a mixture of 10 ml of toluene and 2 ml of thionyl chloride.

reactant | 2,2-diethyl-2,3-dihydro-7-methoxybenzofuran-4-carboxylic acid | 1.2 g | C(C)C1(OC=2C(C1)=C(C=CC2OC)C(=O)O)CC | C14H18O4
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-Diethyl-2,3-dihydro-7-methoxybenzofuran-4-carbonyl chloride | C(C)C1(OC=2C(C1)=C(C=CC2OC)C(=O)Cl)CC | C14H17ClO3
